US06288122B1
1.4a Synthesis of bis(4-fluorophenyl)-2-fluorophenylmethanol
p-Fluorophenylmagnesium bromide (124 mL, 0.12 mol) was added dropwise to a stirring solution of 2,4′-difluorobenzophenone (24.5 g, 0.11 mol) in t-butylmethyl ether (100 mL) at rt. After the addition was complete the reaction was heated at reflux for 3 h. The solution was then cooled to rt and was poured in to ice cold 1.0 M HCl (aq) (100 mL). The organics were extracted with EtOAc (3×70 mL) and dried (Na2SO4). Concentration under reduced pressure gave the desired product bis(4-fluorophenyl)-2-fluorophenylmethanol as a pale yellow oil which was used in the next reaction without any further purification.

reactant | p-Fluorophenylmagnesium bromide | 0.12 mol, 124 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | 2,4′-difluorobenzophenone | 0.11 mol, 24.5 g | FC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H8F2O
solvent | t-butylmethyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | bis(4-fluorophenyl)-2-fluorophenylmethanol | FC1=CC=C(C=C1)C(O)(C1=C(C=CC=C1)F)C1=CC=C(C=C1)F | C19H13F3O
